US07557114B2
(b) 5-Isopropoxy-2,3-Dihydro-1H-isoindole hydrochloride
Prepared in analogy to Example A3(e) from 5-isopropoxy-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. Brown solid. MS (m/e): 178.3 ([M+H]+, 100%).

reactant | 5-isopropoxy-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)OC(C)C | C16H23NO3
reactant | hydrochloric acid | Cl | ClH
product | 5-Isopropoxy-2,3-Dihydro-1H-isoindole hydrochloride | Cl.C(C)(C)OC=1C=C2CNCC2=CC1 | InChI=1S/C11H15NO.ClH/c1-8(2)13-11-4-3-9-6-12-7-10(9)5-11;/h3-5,8,12H,6-7H2,1-2H3;1H
